US06441017B1
Step D: Lithium {5-[1-(tert-Butoxycarbonylamino)-1-(4-cyano-3-fluorophenyl)ethyl]imidazol-1-yl}acetate
A mixture of methyl {5-[1-(tert-butoxycarbonylamino)-1-(4-cyano-3-fluorophenyl)ethyl]imidazol-1-yl}acetate, as described above in Step C, (321 mg, 0.798 mmol) and LiOH (21.0 mg, 0.877 mmol) was stirred in THF (5 mL) and H2O (1.8 mL) at ambient temperature for 1 hour. The solution was adjusted to pH≈7 by the addition of 1.0 N aqueous HCl and then concentrated in vacuo to give the desired product.

reactant | methyl {5-[1-(tert-butoxycarbonylamino)-1-(4-cyano-3-fluorophenyl)ethyl]imidazol-1-yl}acetate | C(C)(C)(C)OC(=O)NC(C)(C1=CC(=C(C=C1)C#N)F)C1=CN=CN1CC(=O)OC | C20H23FN4O4
reactant | LiOH | 0.877 mmol, 21.0 mg | [Li+].[OH-]
reactant | H2O | 1.8 mL | O | H2O
reactant | HCl | 1.0 N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Lithium {5-[1-(tert-Butoxycarbonylamino)-1-(4-cyano-3-fluorophenyl)ethyl]imidazol-1-yl}acetate | C(C)(C)(C)OC(=O)NC(C)(C1=CC(=C(C=C1)C#N)F)C1=CN=CN1CC(=O)[O-].[Li+] | InChI=1S/C19H21FN4O4.Li/c1-18(2,3)28-17(27)23-19(4,13-6-5-12(8-21)14(20)7-13)15-9-22-11-24(15)10-16(25)26;/h5-7,9,11H,10H2,1-4H3,(H,23,27)(H,25,26);/q;+1/p-1
